US07129244B2
Step 2: Synthesis of 7-chloro-3-pyridin-2-ylmethyl-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
A solution of 6-chloro-N4-pyridin-2-ylmethyl-pyrimidine-2,4,5-triamine was treated with a cold aqueous solution of NaNO2, following the general procedure 2. 1HNMR (CDCl3): δ 8.60–8.59 (m, 1H), 7.71–7.67(m, 1H), 7.29–7.25 (m, 1H), 7.22–7.20 (m, 1H), 5.81 (s, 2H), 5.48 (s, 2H).

reactant | 6-chloro-N4-pyridin-2-ylmethyl-pyrimidine-2,4,5-triamine | ClC1=C(C(=NC(=N1)N)NCC1=NC=CC=C1)N | C10H11ClN6
reactant | NaNO2 | N(=O)[O-].[Na+]
product | 7-chloro-3-pyridin-2-ylmethyl-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=NC=CC=C2 | C10H8ClN7
